US08871756B2
To a solution of 3-(benzyloxy)propanenitrile (16.9 g 105 mmol) in diethyl ether (400 mL) were added titanium isopropoxide (35.7 mL, 115 mmol) and ethyl magnesium bromide (210 mL, 1 M in diethyl ether) successively at room temperature. After being stirred for 0.5 hour, boron trifluoride etherate (27 mL, 525 mmol) was added. After stirring for another 0.5 hour, 10% aqueous solution of sodium hydroxide (ca. 5.5 mL) was introduced to the above mixture. The resulting mixture was acidified with 1N hydrochloric acid to pH 3, and then washed with dichloromethane. The aqueous layer was basified with 5% aqueous solution of sodium hydroxide to pH 8˜9 and extracted with dichloromethane (100 mL). The organic layer was washed with brine (100 mL), dried over sodium sulfate and concentrated in vacuo to afford 11 g of 1-[2-(benzyloxy)ethyl]cyclopropanamine (yield was 55%).

reactant | 3-(benzyloxy)propanenitrile | 105 mmol, 16.9 g | C(C1=CC=CC=C1)OCCC#N | C10H11NO
reactant | ethyl magnesium bromide | 1 M, 210 mL | C(C)[Mg]Br
reactant | boron trifluoride etherate | 525 mmol, 27 mL | B(F)(F)F.CCOCC
reactant | sodium hydroxide | ca. 5.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
catalyst | titanium isopropoxide | 115 mmol, 35.7 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-[2-(benzyloxy)ethyl]cyclopropanamine | 11 g, yield was 55% | C(C1=CC=CC=C1)OCCC1(CC1)N | C12H17NO
